US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-furylcarboxamide I-35
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added furan-2-carbonyl chloride (0.52 g, 4.0 mmol). The mixture was heated to reflux for 18 hours. To the reaction mixture was added additional furan-2-carbonyl chloride (0.26 g, 2 mmol). The mixture was heated to reflux for an additional 8 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.65 g (88%) of product as an off-white solid: mp 299–301° C.; 1H NMR (DMSO-d6) δ 11.19 (s, 1H), 10.37 (s, 1H), 8.68 (dd, J=1.4 and 8.4 Hz, 1H), 8.06 (s, 1H), 7.90 (t, J=8.1 Hz, 1H), 7.65 (d, J=7.3 Hz, 1H), 7.39 (d, J=3.5 Hz, 1H), 6.79 (dd, J=1.5 and 3.2 Hz, 1H), 5.19 (dd, J=5.1 and 12.5 Hz, 1H), 2.98–2.84 (m, 1H), 2.67–2.49(m, 2H), 2.13–2.08 (m, 1H); 13C NMR (DMSO-d6) δ 172.66, 169.62, 168.44, 166.59, 155.71, 146.80, 146.34, 136.55, 136.23, 136.12, 131.30, 124.86, 118.54, 116.64, 113.06, 48.98, 30.90, 22.01; Anal. Calcd. For C18H13N3O6: C, 58.86; H. 3.57; N, 11.44. Found: C, 58.69; H, 3.54; N, 11.41.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | furan-2-carbonyl chloride | 4.0 mmol, 0.52 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | furan-2-carbonyl chloride | 2 mmol, 0.26 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-furylcarboxamide | 0.65 g, 88% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(=O)C=1OC=CC1)=O)=O | C18H13N3O6
